US08283353B2
4′-({2-methyl-5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
2-[(trans-4-{6-[(2′-Cyanobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide (1 g) was dissolved in tetrahydrofuran (15 mL), and methylmagnesium bromide (1.0 M tetrahydrofuran solution, 1.7 mL) was added at room temperature. The reaction mixture was stirred for 1 hr, 1 N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.56 g, 60%).

reactant | 2-[(trans-4-{6-[(2′-Cyanobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide | 1 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2CC[C@H](CC2)OCC(=O)N(C)OC)=O | C33H38N6O4
reactant | methylmagnesium bromide | 1.0 M, 1.7 mL | C[Mg]Br
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4′-({2-methyl-5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.56 g, 60% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)[C@@H]2CC[C@H](CC2)OCC(C)=O)=N1 | C32H35N5O3
